US08084470B2
16.4 ml (150.0 mmol) of tetrapropyl orthotitanate were added to a solution of 4.46 g (30.0 mmol) of 3,4-dimethylacetophenone in a 2 M ethanolic ammonia solution (75 ml), and the mixture was stirred for 6 hours at RT. 1.7 g (45.0 mmol) of sodium borohydride were then added, and stirring was continued for a further 16 hours at RT. Thereafter, the reaction solution was poured into a saturated aqueous ammonia solution (75 ml). The precipitate that formed was filtered off with suction, and then washing with ethyl acetate was carried out. The aqueous filtrate was concentrated in vacuo, followed by extraction twice with ethyl acetate. The combined ethyl acetate phases were extracted three times with 2 M hydrochloric acid. The combined aqueous phases were adjusted to pH 11 with a 2 M aq. NaOH solution and then extracted three times with ethyl acetate. The combined organic phases were dried over MgSO4, filtered and concentrated in vacuo. CC (ethyl acetate/MeOH 9:1) yielded 799 mg (5.4 mmol, 18%) of 1-(3,4-dimethylphenyl)ethylamine.

reactant | 3,4-dimethylacetophenone | 30.0 mmol, 4.46 g | CC1=C(C=C(C=C1)C(=O)C)C | C10H12O
reactant | ammonia | 2 M, 75 ml | N | H3N
reactant | sodium borohydride | 45.0 mmol, 1.7 g | [BH4-].[Na+]
reactant | ammonia | 75 ml | N | H3N
catalyst | tetrapropyl orthotitanate | 150.0 mmol, 16.4 ml | CCCO.CCCO.CCCO.CCCO.[Ti]
solvent | ethyl acetate MeOH | C(C)(=O)OCC.CO
product | 1-(3,4-dimethylphenyl)ethylamine | 5.4 mmol, 799 mg, 18% | CC=1C=C(C=CC1C)C(C)N | C10H15N
